US04377580
A mixture of dimethyl[[6-(2-ethylbutyramido)-4-quinazolinylamino]methylene]propanedioate (5.3 g) and diphenyl ether (32 ml) was heated at 255° C. for 15 minutes and cooled to ambient temperature. Hexane was added to the reaction mixture. The resulting crystals were filtered off, washed with hexane and dried. The crude crystals were dissolved in a mixture of chloroform and methanol (10:1) under heating. Insoluble materials were removed by filtration. The filtrate was concentrated under reduced pressure to give crystals, which were recrystallized from a mixture of chloroform and hexane to give methyl 4-oxo-10-(2-ethylbutyramido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (3.81 g).

reactant | dimethyl[[6-(2-ethylbutyramido)-4-quinazolinylamino]methylene]propanedioate | 5.3 g | COC(C(C(=O)OC)=CNC1=NC=NC2=CC=C(C=C12)NC(C(CC)CC)=O)=O | C20H24N4O5
reactant | diphenyl ether | 32 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | Hexane | CCCCCC | C6H14
product | methyl 4-oxo-10-(2-ethylbutyramido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate | 3.81 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(C(CC)CC)=O)C(=O)OC | C19H20N4O4
